US04672111
5-azido-2-'-deoxyuridine nucleoside and nucleotide compounds and a method of producing them. The method involves reacting a 5'-deoxyuridine compound with nitrosonium tetrafluoroborate to produce a 5-nitro-deoxyuridine compound. The 5-nitro-deoxyuridine compound is reduced to a 5-amino-deoxyuridine compound in the presence of metallic zinc. The 5-amino-deoxyuridine compound is acidified and reacted with sodium nitrite to produce a 5-diazo-deoxyuridine compound. The diazo-deoxyuridine compound is then reacted with sodium azide to produce a 5-azido-deoxyuridine compound. The latter, in the monophosphate form, is further reacted with diphenylchlorophosphate to produce the photoactive triphosphate, 5-azido-2'-deoxyuridine-5'-triphosphate or 5-azido-dUTP. The photoactive compound, when added to DNA in an in vitro synthesis reaction, produces photoactive DNA.

reactant | diazo-deoxyuridine | [N+](=[N-])=C1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C=C1 | C9H10N4O5
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
product | 5-azido-deoxyuridine | N(=[N+]=[N-])C=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C9H11N5O5
